US05696133
(R/S)-1-tert-Butyloxycarbonyl-4-ethyl-1,2,3,4-tetrahydro-4-hydroxyquinoline.
To a flame-dried b 25-mL rb flask containing ethylmagnesium bromide (4.0 mL of a 3.0M solution in Et2O, 12.0 mmol, 3.0 equiv), at -10° C. was added dropwise a solution of 1-tert-butyloxycarbonyl-1,2,3,4-tetrahydro-4-quinolone (1.0 g, 4.0 mmol) in Et2O (4 mL). The reaction mixture was stirred at -10° C. for 15 min, then allowed to warm to rt over 10 min. A 1.0M solution of NaHSO4 (10 mL) was then rapidly added. The resulting biphasic mixture was extracted with EtOAc (3×10 mL), and the combined organic extracts were dried (Na2SO4) and concentrated under reduced pressure. The residue was purified by flash chromatography (silica gel, hexanes/EtOAc, 4:1), affording 800 mg (71%) of the desired product as a clear yellow oil (Rf 0.14, hexanes/EtOAc, 4:1). Data for 1-tert-butoxycarbonyl-4-ethyl-1,2,3,4-tetrahydro-4-hydroxyquinoline: 1H NMR (400 MHz, CDCl3) 7.68 (d, 1H, J=8.4, 8-H), 7.47 (dd, 1H, J=7.9, 1.7, 5-H), 7.21 (ddd, 1H, J=7.4, 7.4, 1.6, 6-H), 7.09 (ddd, 1H, J=7.8, 7.8, 1.1, 7-H), 4.03 (ddd, 1H, J=12.9, 7.1, 4.7, 2-H), 3.47 (ddd, 1H, J=13.1, 8.6, 4.3; 2-H), 2.11 (ddd, 1H, J=13.5, 8.6, 4.8, 3-H), 1.86 (m, 3H, 3-H, CH2CH3), 1.52 [s, 9H, C(CH3)3 ], 0.89 (t, 3H, J=7.5, CH3).

reactant | 1-tert-butyloxycarbonyl-1,2,3,4-tetrahydro-4-quinolone | 4.0 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CCC(C2=CC=CC=C12)=O | C14H17NO3
reactant | NaHSO4 | 10 mL | OS(=O)(=O)[O-].[Na+]
reactant | Et2O | 4 mL | CCOCC | C4H10O
product | (R/S)-1-tert-Butyloxycarbonyl-4-ethyl-1,2,3,4-tetrahydro-4-hydroxyquinoline | 800 mg, 71% | C(C)(C)(C)OC(=O)N1CCC(C2=CC=CC=C12)(O)CC | C16H23NO3
